US07538931B2
Hra=2,2′-Methylenebis(1-benzyl-1H-benzimidazole)
To a flask were added 2.0 g 2,2′-methylenebis(1H-benzimidazole), 2.8 g potassium carbonate, 100 ml N,N-dimethylformamide and the mixture was stirred under nitrogen. 2.5 g benzyl chloride were added and the mixture was heated to 70 C for 16 hours. Another 0.7 g benzyl chloride was added and the reaction was heated to 70 C for another 20 hours. The reaction was cooled to 22 C, quenched with 150 ml water and the product was extracted with ethyl acetate and washed with water. Following removal of solvent, the product was recrystallized from 10 ml ethanol, then 10 ml acetonitrile with 1 ml of water. The product was filtered and dried resulting in 0.67 g tan solid.

reactant | 2,2′-methylenebis(1H-benzimidazole) | 2.0 g | C(C1=NC2=C(N1)C=CC=C2)C2=NC1=C(N2)C=CC=C1 | C15H12N4
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 2.5 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | benzyl chloride | 0.7 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2,2′-Methylenebis(1-benzyl-1H-benzimidazole) | 0.67 g | C(C1=NC2=C(N1CC1=CC=CC=C1)C=CC=C2)C2=NC1=C(N2CC2=CC=CC=C2)C=CC=C1 | C29H24N4
